US09301526B2
A solution of 2,2,6,6-tetramethylpiperidin (198.8 g, 1.41 mol) in tetrahydrofuran (1.5 L) was added n-butyl-lithium (564 mL, 1.41 mol) dropwise at −78° C. Then the mixture was stirred from −78° C.˜−30° C. for 30 minutes. Then the mixture was cooled to −78° C. and a solution of 6-(trifluoromethyl)nicotinic acid (90 g, 1.47 mol) in tetrahydrofuran (2.5 L) added dropwise at −78° C., then the mixture was stirred from −78° C.-−40° C. for 1 hour. The mixture was cooled to −78° C. and a solution of hexachloroethane (222.5 g, 0.94 mol) was added to the reaction mixture dropwise. The mixture was stirred at −78° C. for 3 hours. Aqueous ammoniumchloride (1500 mL) was added to the mixture slowly at −78° C. and the mixture was stirred at room temperature for 20 minutes. The mixture was extracted with ethyl acetate (1 L*3). The combined organic layer was concentrated and the residue was purified by silica gel chromatography eluted with dichloromethane: methanol=20:1 to yield 4-chloro-6-(trifluoromethyl)nicotinic acid (Int-11) (85 g, 80%) as a brown solid.

reactant | 2,2,6,6-tetramethylpiperidin | 1.41 mol, 198.8 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyl-lithium | 1.41 mol, 564 mL | C(CCC)[Li]
reactant | 6-(trifluoromethyl)nicotinic acid | 1.47 mol, 90 g | FC(C1=NC=C(C(=O)O)C=C1)(F)F | C7H4F3NO2
reactant | hexachloroethane | 0.94 mol, 222.5 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | ammoniumchloride | 1500 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 L | O1CCCC1 | C4H8O
product | 4-chloro-6-(trifluoromethyl)nicotinic acid | 85 g, 80% | ClC1=CC(=NC=C1C(=O)O)C(F)(F)F | C7H3ClF3NO2
